US08871756B2
3-Amino-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4,4,4-trifluorobutanamide
To a solution of N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanamide (25 mg, 0.04 mmol) in ethanol (3 mL) was added a solution of methylamine (30% in ethanol, 0.3 mL). The resulting mixture was heated at 90° C. for 2 hours. After being cooled to room temperature, the mixture was concentrated in vacuo. The residue was purified by flash chromatography (eluting with 50% ethyl acetate in hexanes) to afford 15 mg of the title compound as light solid (yield was 80%).

reactant | N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-3-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-4,4,4-trifluorobutanamide | 0.04 mmol, 25 mg | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(CC(C(F)(F)F)N2C(C1=CC=CC=C1C2=O)=O)=O)C)=O | C31H25F3N4O5S
reactant | methylamine | 0.3 mL | CN | CH5N
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-Amino-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-4,4,4-trifluorobutanamide | 15 mg, yield was 80% | NC(CC(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)C(F)(F)F | C23H23F3N4O3S
